US08486953B2
Methyl 4-(4-fluoro-2-iso-propoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate
Prepared from 4-fluoro-2-iso-propoxyaniline and methyl 4-chloro-5-methylthieno[2,3-d]pyrimidine-6-carboxylate in an analogous fashion to that given in general route 1. Yield (0.25 g, 53%)

reactant | 4-fluoro-2-iso-propoxyaniline | FC1=CC(=C(N)C=C1)OC(C)C | C9H12FNO
reactant | methyl 4-chloro-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | ClC=1C2=C(N=CN1)SC(=C2C)C(=O)OC | C9H7ClN2O2S
product | Methyl 4-(4-fluoro-2-iso-propoxyphenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)OC(C)C | C18H18FN3O3S
